US04771050
To a solution of 2-isopropyl-2H-1,4-benzoxazin-3(4H)-one (19.1 g) in N,N-dimethylformamide (200 ml), sodium hydride (60% in oil, 4.0 g) was added and stirred at room temperature for 30 minutes, to which a solution of methyl bromoacetate (10 ml) in N,N-dimethylformamide (200 ml) was added dropwise with ice-cooling. After stirring with ice-cooling for 1 hour, the reaction mixture was diluted with water and subjected to extraction with ethyl acetate. The extract was washed with water, dried (MgSO4) and evaporated to dryness, to give methyl 3,4-dihydro-2-isopropyl-3-oxo-2H-1,4-benzoxazine-4-acetate as an oil. Yield was 26.0 g (98.9%).

reactant | 2-isopropyl-2H-1,4-benzoxazin-3(4H)-one | 19.1 g | C(C)(C)C1OC2=C(NC1=O)C=CC=C2 | C11H13NO2
reactant | sodium hydride | 4.0 g | [H-].[Na+]
reactant | methyl bromoacetate | 10 ml | BrCC(=O)OC | C3H5BrO2
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 3,4-dihydro-2-isopropyl-3-oxo-2H-1,4-benzoxazine-4-acetate | C(C)(C)C1OC2=C(N(C1=O)CC(=O)OC)C=CC=C2 | C14H17NO4
